US08895761B2
Concentrated hydrochloric acid (22 ml) is added to a solution of (4′-chloro-3,5-diethylbiphen-4-yl)carbamic acid tert-butyl ester (22 g, 0.06 mol) in methanol (110 ml), and the reaction mixture is heated to 60° C. for 2 hours. The mixture is cooled to room temperature and most of the methanol is removed by evaporation under reduced pressure. The mixture is diluted with water, made basic by addition of 2N aqueous potassium hydroxide solution and extracted with ethyl acetate (3×200 ml). The organic extracts are combined and the solvents are removed under reduced pressure to give 4′-chloro-3,5-diethylbiphen-4-ylamine (9.6 g).

reactant | hydrochloric acid | 22 ml | Cl | ClH
reactant | (4′-chloro-3,5-diethylbiphen-4-yl)carbamic acid tert-butyl ester | 0.06 mol, 22 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1CC)C1=CC=C(C=C1)Cl)CC)=O | C21H26ClNO2
solvent | methanol | 110 ml | CO | CH4O
product | 4′-chloro-3,5-diethylbiphen-4-ylamine | 9.6 g | ClC1=CC=C(C2=CC(=C(C(=C2)CC)N)CC)C=C1 | C16H18ClN
